Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Motrin / Aspirin
 
Attending: ___
 
Chief Complaint:
word finding difficulty and hesitant speech
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMHx of DM, HTN, who was in her kitchen chatting 
with her husband last ___ when she had the sudden 
onset of hesitant speech and word finding difficulties. Her 
husband recalls that she had woken up normally with normal 
speech and the change occurred suddenly, right about 10am. Her 
language deficits have persisted since that time, sometimes 
worse sometimes better. Overall she thinks that they have 
improved, yet they are still present and they frustrate her. 
Both her an her husband agree that she will have pauses during 
speech when she is trying to come up with the word that she is 
trying to say. This makes her extremely frustrated. She was seen 
by her GI doctor who arranged for an outpatient stroke workup 
including MRI, Holter, carotid U/S.  Today, she got mixed up on 
what she was supposed to get done. She thought the appointment 
was for the Holter when in reality she was supposed to get a 
MRI. The MRI staff were concerned that she was confused about 
the timing of her appointments so suggested that she go to the 
ER for evaluation.  She missed her scheduled MRI appointment.  
She denies any new symptoms since the onset of her language 
deficits last week. She denies any current issues with weakness, 
numbness, vertigo although she does describe an episode of 
vertigo that happened many years ago that resolved after a day 
or 2. She has asthma and got a lung infection in ___ which 
was treated with a long prednisone taper (___) which 
caused her blood sugars to be very elevated in the 250-300 
range. She also has a lot of stress at home with her sick 
husband, upgrades on the house, and trying to arrange things 
with her son. She becomes tearful describing all the stress she 
is under and wonders if this has contributed to her new 
symptoms.  Neurology was consulted for evaluation of her 
confusion and speech difficulty.

On neuro ROS, the patient reports hesitancy with speech and 
difficulty getting out the words that she wants to say.  She 
denies any difficulty comprehending speech.  The pt denies 
headache, loss of vision, blurred vision, diplopia, dysarthria, 
dysphagia, lightheadedness, tinnitus or hearing difficulty.  She 
reports an episode of vertigo ___ years ago that lasted about a 
day or 2.  Chronic pain and weakness from a right-sided frozen 
shoulder and a left elbow injury.  No bowel or bladder 
incontinence or retention. Denies difficulty with gait, walks 
unassisted.
 
On general review of systems, the pt denies recent illnesses.  
Denies cough, shortness of breath.  Denies chest pain or 
tightness, palpitations.  Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain.  No recent change in bowel or 
bladder habits.  

 
Past Medical History:
-Hypertension
-complicated diverticular disease ___: vaginal fistula and
diverting colostomy, reversed ___. 
-Complete hysterectomy, 
-frozen right shoulder and finger numbness after fall
having physical therapy
-Right knee surgery, getting shots in knee 
-hyperlipidemia
-diabetes
-cholecystectomy
-irritable bowel syndrome with abdominal pain and constipation 
as
well as diarrhea, 
-colonoscopy was okay ___, diverticuli on colonoscopy in
___, and polyps on colonoscopy in ___. Upper endoscopy ___
--thyroidectomy for a nodule and she has developed 
hypothyroidism
for which is treated with Synthroid  
-Anxiety
-Asthma related to allergies
-Cataract surgery left eye
-stress echo ___:  Concentric LVH with normal wall motion and
systolic function. Left atrial enlargement.  Aortic sclerosis.
Mitral inflow suggests diastolic dysfunction. No 
exercise-induced
ischemia to max HR and low average workload.
 

 
Social History:
___
Family History:
Her mother died at ___ after having a stroke at ___.  Her father 
died at ___ from throat cancer and used to smoke 3 packs a day.  
She has 2 children in their ___ were both healthy.

 
Physical Exam:
ADMISSION EXAM
GENERAL EXAM: 
- Vitals: 97.9 63 158/70 18 100%RA
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: No increased work of breathing
- Abdomen: Soft, obese
 
NEURO EXAM: 
- Mental Status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Attentive, able to name ___ backward 
without difficulty.  Her speech is interrupted with pauses as 
she looks for the words that she wants to say.  Occasional  
phonemic paraphasic errors.  Intact comprehension.  Takes 2 
attempts to say "no ifs, ands or buts" correctly, mixing up the 
order of the words.  Able to name high frequency objects.  
Unable to name ___ objects such as hands (says phone, 
watch) or cuticle.  When naming objects on the stroke card, 
states "cacus" instead of cactus.  Able to describe the ___ 
jar scene with good detail and no paraphasic errors.  Able to 
read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. There was no 
evidence of apraxia or neglect.

- Cranial Nerves:
PERRL 3 to 2mm and brisk. VFF to confrontation. EOMI with 
hypometric saccades as well as saccadic intrusions.  Facial 
sensation intact to light touch.  Left ptosis which she says is 
chronic, she considered surgery for it in the past.  No facial 
droop. Hearing intact to finger-rub bilaterally. Palate elevates 
symmetrically. ___ strength in trapezii and SCM bilaterally. 
Tongue protrudes in midline and to either side with no evidence 
of atrophy or weakness.

- Motor: Normal bulk, paratonia throughout.  With arms extended 
has right pronation, left cupping, but no drift. No adventitious 
movements such as tremor or asterixis noted.  
*Motor exam is pain limited especially in the arms.
  Delt Bic Tri WrE FE IP Quad Ham TA ___ 
L  5    ___   ___    5  5     5     5   
R  4*   5   4*  ___   5    5  5     5     5   

- Sensory: No deficits to light touch. No extinction to DSS.
- DTRs:
  Bi Tri ___ Pat Ach
L  0  0    0    0   0
R  0  0    0    0   0
Plantar response was WD vs up bilaterally.
- Coordination: No dysmetria on FNF or HKS bilaterally.
- Gait: Good initiation.  Mildly wide base.  Right arm posturing 
on toe walk. Romberg absent.

DISCHARGE EXAM 
GENERAL EXAM: 
- Vitals: 
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: No increased work of breathing
- Abdomen: Soft, obese
 
NEURO EXAM: 
- Mental Status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Attentive.  Her speech is 
interrupted with mild pauses as she looks for the words that she 
wants to say.  No phonemic paraphasic errors.  Intact 
comprehension.  Intact repetition of "no ifs, ands or buts" 
correctly.  Able to name low frequency objects.  Unable to name 
some high-frequency objects such as index finger (says ___ 
finger) and pinky (says baby finger).  No paraphasic errors.  
Able to read without difficulty. Speech was not dysarthric. Able 
to follow both midline and appendicular commands with quick 
correction of 2 step commands. There was no evidence of apraxia 
or neglect.

- Cranial Nerves:
PERRL 3 to 2mm and brisk. VFF to confrontation. EOMI.  Facial 
sensation intact to light touch. No facial droop. Hearing intact 
to finger-rub bilaterally. Palate elevates symmetrically. ___ 
strength in trapezii and SCM bilaterally. Tongue protrudes in 
midline and to either side with no evidence of atrophy or 
weakness.

- Motor: Normal bulk.  With arms extended has right pronation 
but no drift. No adventitious movements such as tremor or 
asterixis noted.  
*Motor exam is pain limited especially in the arms.
  Delt Bic Tri WrE FE IP Quad Ham TA ___ 
L  4+   5   4+   ___   5    5  5     5     5   
R  5    ___   ___    5  5     5     5   

- Sensory: No deficits to light touch. No extinction to DSS.
- DTRs:2+ throughout
- Plantar response was normal ___
- Coordination: No dysmetria on FNF or HKS bilaterally.
- Gait: deferred.
 
Pertinent Results:
___ 11:40AM   ___ PTT-UNABLE TO  ___
___ 09:47AM URINE  HOURS-RANDOM
___ 09:47AM URINE  UHOLD-HOLD
___ 09:47AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:47AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:47AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-LG
___ 09:47AM URINE  RBC-2 WBC-9* BACTERIA-FEW YEAST-NONE 
EPI-2 TRANS EPI-<1
___ 09:47AM URINE  HYALINE-2*
___ 09:47AM URINE  MUCOUS-RARE
___ 08:35AM   GLUCOSE-169* UREA N-23* CREAT-1.0 SODIUM-139 
POTASSIUM-5.9* CHLORIDE-104 TOTAL CO2-21* ANION GAP-20
___ 08:35AM   ALT(SGPT)-18 AST(SGOT)-34 ALK PHOS-67 TOT 
BILI-0.4
___ 08:35AM   LIPASE-16
___ 08:35AM   cTropnT-<0.01
___ 08:35AM   ALBUMIN-4.0 CALCIUM-9.4 PHOSPHATE-4.5 
MAGNESIUM-1.9
___ 08:35AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:35AM   WBC-8.0 RBC-3.80* HGB-11.4 HCT-34.5 MCV-91 
MCH-30.0 MCHC-33.0 RDW-13.2 RDWSD-43.3
___ 08:35AM   NEUTS-67.5 ___ MONOS-5.5 EOS-1.4 
BASOS-0.4 IM ___ AbsNeut-5.41 AbsLymp-1.99 AbsMono-0.44 
AbsEos-0.11 AbsBaso-0.03
___ 08:35AM   PLT SMR-NORMAL PLT COUNT-390

CT head 
IMPRESSION: 
  
  
1. New area of hypodensity within the left frontal lobe, 
consistent with a 
subacute infarction in coordination with patient's clinical 
history. 
2. No evidence of intracranial hemorrhage. 
  

CTA head and neck
IMPRESSION: 
  
  
1. Unchanged area of hypoattenuation in the left frontal lobe 
suspicious for 
acute or subacute infarction without a visualized left MCA 
branch occlusion. 
2. 30% stenosis of the left internal carotid artery at its 
origin by NASCET 
criteria.  No significant stenosis in the right internal carotid 
artery. 
3. The bilateral common carotid and vertebral arteries and major 
arteries of 
the circle of ___ and their principal intracranial branches 
appear normal 
without stenosis, occlusion, or aneurysm formation. The dural 
venous sinuses 
are patent. 
4. Heterogeneous, left lobe dominant thyroid gland with 
extension into the 
superior mediastinum suggestive of goiter. 

MRI brain
IMPRESSION:  
  
Acute/subacute left frontal lobe cortical infarct extending to 
subcortical 
region.  No hemorrhage. 

TTE
read pending
 
Brief Hospital Course:
___ woman with a past medical history significant for 
diabetes, hypertension who had the sudden onset of language 
difficulties about 1 week ago.  She was sent for an outpatient 
workup including MRI, Holter, and vessels, but got mixed up on 
the dates of the appointments.  She was thought to be confused 
by the staff and was sent in to the emergency room for 
evaluation.  CT/CTA is notable for some atherosclerosis as well 
as atrophy, white matter disease, and evidence of previous 
strokes.  MRI showed subacute infarct in left frontal lobe. TTE 
was performed and results are pending at time of discharge. She 
was started on ASA 81 mg. She has neuro follow up scheduled. She 
was discharged with ___ of heart monitor. 
**************
Transitional issues:
___ placed before discharge

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL =75 ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH BID:PRN for asthma exacerbation 
2. Atorvastatin 40 mg PO DAILY 
3. Fluticasone Propionate 110mcg 1 PUFF IH BID:PRN for asthma 
4. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
5. GlipiZIDE 5 mg PO DAILY 
6. Hydrochlorothiazide 12.5 mg PO DAILY 
7. Levothyroxine Sodium 75 mcg PO DAILY 
8. MetFORMIN (Glucophage) 1000 mg PO BID 
9. Valsartan 160 mg PO DAILY 
10. ALPRAZolam 0.5 mg PO PRN anxiety 
11. Fish Oil (Omega 3) Dose is Unknown  PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Calcium Carbonate 500 mg PO DAILY 
14. Vitamin D Dose is Unknown  PO DAILY 
15. Ascorbic Acid Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Ascorbic Acid ___ mg PO DAILY  
3.  Vitamin D 1000 UNIT PO DAILY  
4.  Albuterol Inhaler 1 PUFF IH BID:PRN for asthma  
5.  ALPRAZolam 0.5 mg PO TID:PRN as needed  
6.  Atorvastatin 40 mg PO DAILY  
7.  Calcium Carbonate 500 mg PO QID:PRN as needed  
8.  DICYCLOMine 20 mg PO PRN for pain  
9.  Fish Oil (Omega 3) 1000 mg PO BID  
10.  Fluticasone Propionate 110mcg 1 PUFF IH BID:PRN for asthma  

11.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
12.  GlipiZIDE 5 mg PO DAILY  
13.  Hydrochlorothiazide 12.5 mg PO DAILY  
14.  Ketoconazole 2%  1 Appl TP BID  
15.  Levothyroxine Sodium 75 mcg PO DAILY  
16.  MetFORMIN (Glucophage) 1000 mg PO BID  
17.  Multivitamins 1 TAB PO DAILY  
18.  Nystatin Cream 1 Appl TP BID  
19.  Valsartan 160 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent, slight word finding 
difficulty
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ were hospitalized due to symptoms of difficulty with speech 
resulting from an ISCHEMIC STROKE, a condition where a blood 
vessel providing oxygen and nutrients to the brain is blocked by 
a clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.
Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
-hypertension
-diabetes
-high cholesterol

We are changing your medications as follows:
- start ASA 81 mg daily
Please take your other medications as prescribed.

A cardiac holter monitor was placed before discharge. 

Please follow up with Neurology as listed below. Please also 
arrange a follow up appointment with your PCP as your A1c 
(measure of diabetes) was elevated and ___ might need adjustment 
of your diabetes medication. 

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
___
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___